US04138488
To a mixture of 92.1 g (0.5 mole) of benzhydrol and 142.7 g. (1.5 mole) of 2-hydroxypyridine heated at 180°, add with stirring 1.5 ml. of concentrated sulfuric acid. Heat the mixture at 250°-255° for 2 hours with the removal of water. Pour the cooled reaction mixture into water, stir, and extract with chloroform. Concentrate the chloroform extracts to a residue containing 5-(diphenylmethyl)-2-pyridone. Triturate the residue with ethyl acetate and filter the solids to obtain 5-(diphenylmethyl)-2-pyridone plus other isomers. Recrystallize from acetonitrile to obtain the product of this example, m.p. 174°-176° C.

reactant | benzhydrol | 0.5 mole, 92.1 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | 2-hydroxypyridine | 1.5 mole | OC1=NC=CC=C1 | C5H5NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-(diphenylmethyl)-2-pyridone | C1(=CC=CC=C1)C(C=1C=CC(NC1)=O)C1=CC=CC=C1 | C18H15NO
